US05104989
(R)-(+)-N-1-Phenylethyl-N-(butoxymethyl)trimethylsilylmethylamine (IV, R1 =H, R2 =Me, R3 =Ph, R4 =Bu)
The title compound was prepared from (R)-(+)-N-1-phenylethyl-N-trimethylsilylmethylamine by reaction with n-butanol and aqueous formaldehyde following the procedure of Example 2 to give the crude acetal (85% pure) as a colourless oil (34.2 g, 84%). The nmr spectrum was identical to the above (S)-isomer.

reactant | (R)-(+)-N-1-phenylethyl-N-trimethylsilylmethylamine | C1(=CC=CC=C1)[C@@H](C)NC[Si](C)(C)C | C12H21NSi
reactant | formaldehyde | C=O | CH2O
solvent | n-butanol | C(CCC)O | C4H10O
product | (R)-(+)-N-1-Phenylethyl-N-(butoxymethyl)trimethylsilylmethylamine | C1(=CC=CC=C1)[C@@H](C)N(COCCCC)C[Si](C)(C)C | C17H31NOSi
